US07163947B2
A solution of 2-butyl-1H-imidazo[4,5-c]quinolin-1-amine hydrochloride (503 mg, 1.82 mmol) in 10 mL of isopropanol was treated with benzaldehyde (220 μL, 2.17 mmol) and 200 mg of DOWEX W50-X1 acid resin. The reaction mixture was heated to reflux overnight. The reaction mixture was filtered, and the filtrate was treated with 0.5 mL of triethylamine and concentrated under reduced pressure. The resulting oil was dissolved in 75 mL of CH2Cl2 and washed with saturated NaHCO3 solution, H2O and brine. The organic was dried over Na2SO4, filtered and concentrated to give N-benzylidene(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)amine (575 mg) as a light yellow solid.

reactant | 2-butyl-1H-imidazo[4,5-c]quinolin-1-amine hydrochloride | 1.82 mmol, 503 mg | Cl.C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)N
reactant | benzaldehyde | 2.17 mmol, 220 μL | C(C1=CC=CC=C1)=O | C7H6O
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | N-benzylidene(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)amine | 575 mg | C(C1=CC=CC=C1)=NN1C(=NC=2C=NC=3C=CC=CC3C21)CCCC | C21H20N4
